US04012360
35.4 g of oxalic acid bis-hydrazide are suspended in 1000 ml of dimethyl acetamide, the suspension is briefly heated to 100° C and cooled to room temperature, and 93.5 g of salicylic acid chloride are slowly added in such a way that the reaction temperature does not exceed 40° C. After a further 15 minutes' stirring a largely homogeneous, yellowish solution has been obtained. After filtering off the undissolved constituents, the solution is mixed with 1.2 liters of ice water, whereupon the reaction product precipitates. The substance is filtered off, washed with water and purified by again precipitating it from dimethyl acetamide solution by means of water. After isolation and intensive drying at 130° C in vacuo, N,N'-bis-(salicyloyl)-oxalic acid dihydrazide (Stabiliser No. 2) is obtained as a white powder of melting point>320° C (decomposition).

reactant | oxalic acid bis-hydrazide | 35.4 g | C(=O)(C(=O)NN)NN | C2H6N4O2
reactant | salicylic acid chloride | 93.5 g | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
solvent | dimethyl acetamide | 1000 ml | CC(=O)N(C)C | C4H9NO
product | N,N'-bis-(salicyloyl)-oxalic acid dihydrazide | C(C=1C(O)=CC=CC1)(=O)N(NC(C=1C(O)=CC=CC1)=O)C(C(=O)NN)=O | C16H14N4O6
